US08193228B2
4-(2,2-dimethylpropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide
A solution of 5-(2,2-dimethylpropyl)-1H-imidazole, dimethylsulfamoyl chloride (25 mL), Et3N (45 mL) in CH2Cl2 (300 mL) was added DMAP (0.8 g). The reaction mixture was refluxed overnight. The solvent was evaporated and the residue was purified by silica gel chromatography to give the title compound as a white solid.

reactant | 5-(2,2-dimethylpropyl)-1H-imidazole | CC(CC1=CN=CN1)(C)C | C8H14N2
reactant | dimethylsulfamoyl chloride | 25 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | Et3N | 45 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.8 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(2,2-dimethylpropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=CN(C1)S(=O)(=O)N(C)C)(C)C | C10H19N3O2S
